US08071592B2
(b) 7-Oxo-8-(2-propen-1-yl)-7,8-dihydro-1,8-naphthyridine-2-carbonitrile
To a degassed solution of 7-oxo-8-(2-propen-1-yl)-7,8-dihydro-1,8-naphthyridin-2-yl trifluoromethanesulfonate (697 mg, 2.087 mmol) in DMF (10 ml) was added Zn(CN)2, (147 mg, 1.252 mmol) Pd2(dba)3 (48 mg, 0.052 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (58 mg, 0.104 mmol). The reaction was then heated at 50° C. for 1 h and then at 70° C. for a further 1 h and at 100° C. for a further 1 h. More Zn(CN)2, (147 mg, 1.252 mmol) Pd2(dba)3 (48 mg, 0.052 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (58 mg, 0.104 mmol) was then added and the reaction was heated at 100° C. for a further 1 h. The reaction was then cooled and treated with water (200 ml). The reaction was then extracted with DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using an ethyl acetate/hexane gradient to provide the desired compound (374 mg, 85%).

reactant | 7-oxo-8-(2-propen-1-yl)-7,8-dihydro-1,8-naphthyridin-2-yl trifluoromethanesulfonate | 2.087 mmol, 697 mg | FC(S(=O)(=O)OC1=NC=2N(C(C=CC2C=C1)=O)CC=C)(F)F | C12H9F3N2O4S
reactant | water | 200 ml | O | H2O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 1.252 mmol, 147 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.052 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.104 mmol, 58 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Zn(CN)2 | 1.252 mmol, 147 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.052 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.104 mmol, 58 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 7-Oxo-8-(2-propen-1-yl)-7,8-dihydro-1,8-naphthyridine-2-carbonitrile | 374 mg, 85% | O=C1C=CC=2C=CC(=NC2N1CC=C)C#N | C12H9N3O
